US07354932B2
Preparation of [4-(5,6,7,8-Tetrahydro-quinolin-8-ylamino)-butyl]-carbamic acid tert-butyl ester:
To a solution of N-(5,6,7,8-tetrahydro-quinolin-8-yl)-butane-1,4-diamine (6.77 g, 30.9 mmol) in tetrahydrofuran (155 ml) was added slowly triethylamine (4.30 ml, 30.9 mmol) and Boc-ON (7.60 g, 30.9 mmol). The mixture was stirred for 72 hours at room temperature under a N2 atmosphere. The mixture was concentrated and purified by column chromatography on silica gel (CH2Cl2:MeOH:NH4OH, 96:3:1, v/v/v). A second purification by column chromatography on silica gel (ethyl acetate) afforded the product as a brown oil (8.03 g, 80%). 1H NMR (CDCl3) δ 1.43 (s, 9H), 1.60 (s, 4H), 1.78 (m, 2H), 1.99 (m, 2H), 2.78 (m, 5H), 3.15 (m, 2H), 3.77 (t, 1H), 4.87 (s, 1H), 7.07 (dd, 1H, J=7.45, 4.82 Hz), 7.83 (d, 1H, J=7.89 Hz), 8.38 (d, 1H, J=4.38 Hz).

reactant | N-(5,6,7,8-tetrahydro-quinolin-8-yl)-butane-1,4-diamine | 30.9 mmol, 6.77 g | N1=CC=CC=2CCCC(C12)NCCCCN | C13H21N3
reactant | triethylamine | 30.9 mmol, 4.30 ml | C(C)N(CC)CC | C6H15N
reactant | Boc-ON | 30.9 mmol, 7.60 g | CC(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
solvent | tetrahydrofuran | 155 ml | O1CCCC1 | C4H8O
product | [4-(5,6,7,8-Tetrahydro-quinolin-8-ylamino)-butyl]-carbamic acid tert-butyl ester | 8.03 g, 80% | C(C)(C)(C)OC(NCCCCNC1CCCC=2C=CC=NC12)=O | C18H29N3O2
